US05047540
A solution of 600 mg (1.04 mM) of 1-hexadecylthio-3-(3-iodopropylsulfonylamino)-2-methoxypropane IIa2 in 5 ml of thiazole is stirred at 60° C. for 6 hours. After thiazole is evaporated, the residue is washed with ether and recrystallized from acetone to give 387 mg (0.584 mM) of 1-hexadecylthio-2-methoxy-3-(3-thiazoliopropylsulfonylamino)propane iodide Ia9 in 56% yield.

reactant | 1-hexadecylthio-3-(3-iodopropylsulfonylamino)-2-methoxypropane | 1.04 mM, 600 mg | C(CCCCCCCCCCCCCCC)SCC(CNS(=O)(=O)CCCI)OC | C23H48INO3S2
reactant | thiazole | 5 ml | S1C=NC=C1 | C3H3NS
product | 1-hexadecylthio-2-methoxy-3-(3-thiazoliopropylsulfonylamino)propane iodide | 0.584 mM, 387 mg, 56% yield | [I-].C(CCCCCCCCCCCCCCC)SCC(CNS(=O)(=O)CCCC=1SC=C[NH+]1)OC | InChI=1S/C26H50N2O3S3.HI/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-32-24-25(31-2)23-28-34(29,30)22-17-18-26-27-19-21-33-26;/h19,21,25,28H,3-18,20,22-24H2,1-2H3;1H
